US05153226
(S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[-(phenylmethyl)amino]benzenepropanamide
A solution of (S)-α-amino-N-[2,6-bis(1-Methylethyl)phenyl]benzenepropanamide (1.0 g, 3.1 mmol) and benzaldehyde (0.33 g, 3.1 mmol) in toluene (100 mL) was heated under reflux for 1 hour with the azeotropic removal of water then cooled (25° C.). To the resulting solution was added one equivalent of Raney nickel, and the resulting slurry was shaken vigorously under hydrogen (53 psi, 82 min 25° C.). The resulting slurry was filtered, and the filtrate was concentrated. The resulting oil was triturated with ether/hexane (1:1), and the resulting precipitate was collected by filtration to yield 0.27 g (21%) of the title compound, mp 120°-124° C.

reactant | (S)-α-amino-N-[2,6-bis(1-Methylethyl)phenyl]benzenepropanamide | 3.1 mmol, 1.0 g | N[C@H](C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC1=CC=CC=C1 | C21H28N2O
reactant | benzaldehyde | 3.1 mmol, 0.33 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Raney nickel | one equivalent | [Ni] | Ni
product | (S)-N-[2,6-bis(1-Methylethyl)phenyl]-α-[-(phenylmethyl)amino]benzenepropanamide | 0.27 g, 21% | CC(C)C1=C(C(=CC=C1)C(C)C)NC([C@H](CC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C28H34N2O
